US07361763B2
To a flame-dried 100 ml round bottomed flask were added 2-amino-5-bromo-N-methoxy-N-methyl-nicotinamide (661 mg, 2.54 mmol) and anhydrous THF (15 ml). The solution was stirred at −55° C. for 5 minutes under nitrogen, then a 0.5 M solution of 2-methoxyphenyl magnesium bromide in THF (18 ml, 9.0 mmol) was added dropwise over 3 minutes. The resulting solution was allowed to warm to room temperature over 2 hours then quenched by addition of 1 M citric acid. (25 ml). Ethyl acetate (50 ml) was added, and the layers were separated. The aqueous fraction was extracted three times with ethyl acetate, and the combined organic fractions were washed with brine, dried (Na2SO4), filtered and concentrated to give a sticky yellow solid. Recrystallization from ethanol provided 619.5 mg (79%) of (2-amino-5-bromo-pyridin-3-yl)-(2-methoxy-phenyl)-methanone as yellow needles. MS m/z: 308 [MH]+.

reactant | 2-amino-5-bromo-N-methoxy-N-methyl-nicotinamide | 2.54 mmol, 661 mg | NC1=C(C(=O)N(C)OC)C=C(C=N1)Br | C8H10BrN3O2
reactant | 2-methoxyphenyl magnesium bromide | COC1=C(C=CC=C1)[Mg]Br
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 9.0 mmol, 18 ml | C1CCOC1 | C4H8O
product | (2-amino-5-bromo-pyridin-3-yl)-(2-methoxy-phenyl)-methanone | 619.5 mg, 79% | NC1=NC=C(C=C1C(=O)C1=C(C=CC=C1)OC)Br | C13H11BrN2O2
